US08012976B2
8-(4-Fluorophenyl)-9-(1-methyl-1H-1,2,4-triazol-5-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one
A 100 mL round-bottom flask equipped with a thermometer and magnetic stirrer was charged with ethyl 2-(4-fluorophenyl)-3-(1-methyl-1H-1,2,4-triazol-5-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate (1.72 g, 4.4 mmol), methanol (15 mL), and NH2NH2 (4 mL, 85%). The mixture was stirred at 25° C. for 5 hr. The reaction was monitored by HPLC for completion. The mixture was evaporated under reduced pressure and methanol was added to make slurry. The suspension was filtered. The obtained solid was washed with 20 mL of methanol, and was dried to afford the title compound (1.4 g, yield 90%). LC-MS (ESI) m/z: 363 (M+1)+. 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 3.65 (s, 3H), 4.93-4.97 (m, 2H), 7.12-7.19 (m, 3H), 7.39-7.43 (m, 2H), 7.47-7.50 (m, 2H), 7.58-7.60 (m, 1H), 7.79 (s, 1H), 12.22 (s, 3H).

reactant | ethyl 2-(4-fluorophenyl)-3-(1-methyl-1H-1,2,4-triazol-5-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 4.4 mmol, 1.72 g | FC1=CC=C(C=C1)C1NC=2C=CC=C(C2C(C1C1=NC=NN1C)=O)C(=O)OCC | C21H19FN4O3
reactant | NH2NH2 | 4 mL | NN | H4N2
solvent | methanol | 15 mL | CO | CH4O
product | 8-(4-Fluorophenyl)-9-(1-methyl-1H-1,2,4-triazol-5-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 1.4 g, yield 90% | FC1=CC=C(C=C1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C1=NC=NN1C | C19H15FN6O
